US04022766
(b) 3-Benzoyl-2-methyl-5-phenyl-4-(phthalimidoacetamido)-pyrrole
4-Amino-3-benzoyl-2-methyl-5-phenylpyrrole (22.4 g.) is dissolved in 1400 ml. of chloroform and 160 ml. of 1N sodium hydroxide are added to the mixture. By keeping the temperature at 0°-5° C., 17.6 g. of phthalimidoacetyl chloride in 120 ml. of chloroform are added with stirring. After one hour the reaction mixture is cooled and the solid precipitated is recovered on filter and then crystallized from ethanol. Yield 27.8 g.; M.p. 288°-90° C.

reactant | 4-Amino-3-benzoyl-2-methyl-5-phenylpyrrole | 22.4 g | NC=1C(=C(NC1C1=CC=CC=C1)C)C(C1=CC=CC=C1)=O | C18H16N2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | phthalimidoacetyl chloride | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Benzoyl-2-methyl-5-phenyl-4-(phthalimidoacetamido)-pyrrole | C(C1=CC=CC=C1)(=O)C1=C(NC(=C1NC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C2=CC=CC=C2)C | C28H21N3O4
